US06743794B2
tert-Butylamino-acetic Acid
To a solution of tert-Butylamino-acetic acid methyl ester (Maybridge), 122 mg (0.84 mmol) in 10 mL of dioxane was added a solution of 60 mg (2.52 mmol) of lithium hydroxide in 10 mL of water. The reaction mixture was stirred for two hours, acidified to pH=1 with 5 N HCl and concentrated to dryness to yield the crude desired product which was carried on without further purification. MS (IS) 132.1 (M+1).

reactant | tert-Butylamino-acetic acid methyl ester | COC(CNC(C)(C)C)=O | C7H15NO2
reactant | lithium hydroxide | 2.52 mmol, 60 mg | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | tert-Butylamino-acetic Acid | C(C)(C)(C)NCC(=O)O | C6H13NO2
